US07342115B2
A mixture of 1-[6-(2,6-diethyl-phenyl)-4-isopropoxy-pyridin-3-yl]-butan-1-ol (482 mg, 1.41 mmol, prepared analogously to Example 16) and pyridinium dichromate (1.0 g, 2.82 mmol) in CH2CH2 (50 mL) is stirred at room temperature overnight. The mixture is washed with brine, dried and concentrated. The residue is chromatographed on silica gel to give 360 mg of 1-[6-(2,6-diethyl-phenyl)-4-isopropoxy-pyridin-3-yl]-butan-1-one.

reactant | 1-[6-(2,6-diethyl-phenyl)-4-isopropoxy-pyridin-3-yl]-butan-1-ol | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C=N1)C(CCC)O)OC(C)C | C22H31NO2
reactant | pyridinium dichromate | 2.82 mmol, 1.0 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
product | 1-[6-(2,6-diethyl-phenyl)-4-isopropoxy-pyridin-3-yl]-butan-1-one | 360 mg | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C=N1)C(CCC)=O)OC(C)C | C22H29NO2
